US06310079B1
(E)-5-Acetylamino-1-(2-pyridyl)-2-styryl-1H-benzimidazole
(E)-5-Amino-1-(2-pyridyl)-2-styryl-1H-benzimidazole (199 mg, 0.64 mmol) was dissolved in acetic anhydride (2 ml) and the solution was allowed to maintain at room temperature for 30 mm. Then the reaction mixture was poured into saturated aqueous sodium bicarbonate solution (50 ml) and the aqueous mixture was extracted with ethyl acetate (100 ml). The organic extract was washed consecutively with water (50 ml) and brine (50 ml), dried (sodium sulfate) and concentrated in vacuo. The residual solids were purified by column chromatography (silica gel, 50 g; n-hexane/ethyl acetate (1/2)) and then recrystallized from ethyl acetate to afford 139 mg (61%) of the titled compound as yellow solids.

reactant | (E)-5-Amino-1-(2-pyridyl)-2-styryl-1H-benzimidazole | 0.64 mmol, 199 mg | NC1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | C20H16N4
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-5-Acetylamino-1-(2-pyridyl)-2-styryl-1H-benzimidazole | 139 mg, 61% | C(C)(=O)NC1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | C22H18N4O
